US09085586B2
A solution of ethyl 2-amino-5-(2-ethoxy-2-oxoethyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate (20.68 g, 66.41 mmol, 1.00 equiv) in 100 mL of formamide was stirred overnight at 180° C. in an oil bath. After the starting material disappeared, the reaction was cooled to room temperature and quenched with water, extracted with 3×200 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:2) to afford ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate (10.10 g, 52%) as yellow oil. LC-MS (ES, m/z): 293 [M+H]+.

reactant | ethyl 2-amino-5-(2-ethoxy-2-oxoethyl)-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxylate | 66.41 mmol, 20.68 g, 1.00 equiv | NC=1SC2=C(C1C(=O)OCC)CC(CC2)CC(=O)OCC | C15H21NO4S
reactant | formamide | 100 mL | C(=O)N | CH3NO
product | ethyl 2-[3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-12-yl]acetate | 10.10 g, 52% | OC=1C=2C=3CC(CCC3SC2N=CN1)CC(=O)OCC | C14H16N2O3S
